US08389509B2
A solution of 4-(5-(1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde (21 g, 54.5 mmol) and azetidine-3-carboxylic acid (6.61 g, 65.4 mmol) in ethanol (750 mL) and acetic acid (20 mL) was stirred at RT for 30 min. The reaction was cooled to 0° C. and a solution of sodium cyanoborohydride (caution: potential source of cyanide generation) (1.17 g, 27.3 mmol) in ethanol was added slowly. The reaction was warmed to RT and stirred overnight. The reaction mixture was concentrated under reduced pressure and the residue was diluted with water. The solids were collected by filtration and washed with water. The product was purified by triturating once each with DCM:methanol (98:2), DCM:methanol (96:4) and ethyl acetate to afford 1-(4-(5-(1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylic acid (16 g, 34 mmol). The compound had an HPLC retention time=8.48 min.−Column: XbridgeA 4.6×150 mm Flow rate=1.0 mL/min. Buffer=0.05% TFA in water pH2.5. Solvent A=Buffer:Acetonitrile (95:5), Solvent B=Acetonitrile:Buffer (95:5). 0-100% B over 12 minutes. LC/MS M+1=471.2.

reactant | 4-(5-(1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | 54.5 mmol, 21 g | N1=C(C=CC=C1)N1N=CC(=C1C(F)(F)F)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C18H10F3N5O2
reactant | azetidine-3-carboxylic acid | 65.4 mmol, 6.61 g | N1CC(C1)C(=O)O | C4H7NO2
reactant | sodium cyanoborohydride | 27.3 mmol, 1.17 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 750 mL | C(C)O | C2H6O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 1-(4-(5-(1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylic acid | 34 mmol, 16 g | N1=C(C=CC=C1)N1N=CC(=C1C(F)(F)F)C1=NC(=NO1)C1=CC=C(CN2CC(C2)C(=O)O)C=C1 | C22H17F3N6O3
